US04480100
[2-[[3-(Dimethylamino)propyl](3-nitro-2-pyridinyl)amino]phenyl]phenylmethanone
The title compound is prepared by reacting [2-[[3-chloropropyl](3-nitro-2-pyridinyl)amino]phenyl]methanone with dimethylamine.

reactant | [2-[[3-chloropropyl](3-nitro-2-pyridinyl)amino]phenyl]methanone | ClCCCN(C1=C(C=CC=C1)C=O)C1=NC=CC=C1[N+](=O)[O-] | C15H14ClN3O3
reactant | dimethylamine | CNC | C2H7N
product | [2-[[3-(Dimethylamino)propyl](3-nitro-2-pyridinyl)amino]phenyl]phenylmethanone | CN(CCCN(C1=C(C=CC=C1)C(=O)C1=CC=CC=C1)C1=NC=CC=C1[N+](=O)[O-])C | C23H24N4O3
